US08703761B2
A. 2-(2-(4-fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylic acid
To a solution of Ethyl-2-(2-(4-fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylate (4.3 g, 9 mmol) in EtOH (25 mL) was added KOH (1 eq) in water (25 mL). The reaction was stirred at 65 C for 15 hours followed by stirring at room temperature over 3 days. It was then acidified with 1 N HCl and the resulting precipitates were collected by filtration and dried to afford the title compound. 1H NMR (400 MHz, DMSO-d6) ppm 1.53 (s, 6H) 7.20 (t, J=8.97 Hz, 2H) 7.32 (t, J=8.84 Hz, 2H) 7.70 (dd, J=8.72, 5.68 Hz, 2H) 8.03 (dd, J=8.72, 5.56 Hz, 2H) 8.64 (s, 1H) 12.43 (s, 1H) 12.94 (br. s., 1H). MS m/z 446 (M+H), 444 (M−1).

reactant | Ethyl-2-(2-(4-fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylate | 9 mmol, 4.3 g | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=C(C=C1)F | C23H21F2N3O4S
reactant | KOH | 1 eq | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | water | 25 mL | O | H2O
product | 2-(2-(4-fluorobenzamido)-2-methylpropanamido)-4-(4-fluorophenyl)thiazole-5-carboxylic acid | FC1=CC=C(C(=O)NC(C(=O)NC=2SC(=C(N2)C2=CC=C(C=C2)F)C(=O)O)(C)C)C=C1 | C21H17F2N3O4S
